* Buffered band-pass filter
VP VP 0 12
VN VN 0 -12
VIN IN 0 AC 1
CH IN HP 100n
RH HP 0 10k
XU1 HP BUF VP VN BUF level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
RL BUF OUT 10k
CL OUT 0 {C}
.lib UniversalOpAmp2.lib
.ac dec 60 1 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param C list 1n 10n 100n
.save V(BUF) V(HP) V(IN) V(OUT) V(VN) V(VP) I(VP) I(VN) I(VIN) I(CH) I(RH) I(RL) I(CL)
.end
