* Active low-pass and high-pass filters
VP VP 0 12
VN VN 0 -12
VIN IN 0 AC 1
RLP IN LP 10k
CLP LP 0 {C}
RG1 FB1 0 10k
RF1 LOW FB1 10k
XU1 LP FB1 VP VN LOW level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
CHP IN HP {C}
RHP HP 0 10k
RG2 FB2 0 10k
RF2 HIGH FB2 10k
XU2 HP FB2 VP VN HIGH level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
.lib UniversalOpAmp2.lib
.ac dec 60 1 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param C list 1n 10n 100n
.save V(FB1) V(FB2) V(HIGH) V(HP) V(IN) V(LOW) V(LP) V(VN) V(VP) I(VP) I(VN) I(VIN) I(RLP) I(CLP) I(RG1) I(RF1) I(CHP) I(RHP) I(RG2) I(RF2)
.end
