* BJT cascode amplifier
VCC VCC 0 12
VIN BASE 0 1.6 AC 1
VB BIAS 0 3
Q1 X BASE EM 0 Q_NPN
Q2 OUT BIAS X 0 Q_NPN
RE EM 0 1k
RC VCC OUT {Rc}
.ac dec 60 10 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rc list 1k 2.2k 4.7k
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(BASE) V(BIAS) V(EM) V(OUT) V(VCC) V(X) I(VCC) I(VIN) I(VB) Ic(Q1) Ib(Q1) Ic(Q2) Ib(Q2) I(RE) I(RC)
.end
