* Full-wave bridge rectifier
VIN RAW B SINE(0 12 50)
RSER RAW A 10
D1 A OUT D_SILICON
D2 B OUT D_SILICON
D3 0 A D_SILICON
D4 0 B D_SILICON
RLOAD OUT 0 1k
CFILTER OUT 0 {Cfilter}
.tran 0 200m 0 20u
.step param Cfilter list 1p 47u 220u
.model D_SILICON D(Is=2n N=1.7 Rs=0.2 Cjo=10p Tt=2u BV=100 Ibv=10u)
.temp 27
.options reltol=1e-5 plotwinsize=0
.save V(raw) V(a) V(b) V(out) I(D1) I(D2) I(D3) I(D4) I(RLOAD) I(CFILTER)
.end
