* Common-base amplifier
VCC VCC 0 12
VB BASE 0 1.3
VIN EM 0 0.65 AC 1
Q1 COL BASE EM 0 Q_NPN
RC VCC COL {Rc}
CO COL OUT 10u
RL OUT 0 100k
.ac dec 60 10 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rc list 1k 2.2k 3.3k
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(BASE) V(COL) V(EM) V(OUT) V(VCC) I(VCC) I(VB) I(VIN) Ic(Q1) Ib(Q1) I(RC) I(CO) I(RL)
.end
