* Common-emitter amplifier
VCC VCC 0 12
VIN IN 0 SINE(0 10m 1k)
RTOP VCC BASE 100k
RBOT BASE 0 22k
CIN IN BASE 10u
RC VCC COL 3.3k
Q1 COL BASE EM 0 Q_NPN
RE1 EM LOW 100
RE2 LOW 0 900
CE LOW 0 {Cbypass}
COUT COL OUT 10u
RL OUT 0 47k
.tran 0 60m 40m 2u
.step param Cbypass list 1p 1u 100u
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.temp 27
.options reltol=1e-5 plotwinsize=0
.save V(in) V(base) V(em) V(low) V(col) V(out) Ic(Q1) Ib(Q1) Ie(Q1) I(RC) I(RE1)
.end
