* Comparator with positive feedback
VP VP 0 5
VN VN 0 -5
VIN IN 0 PULSE(-1 1 0 1m 1m 1u 2.002m)
RF OUT PLUS 100k
RG PLUS 0 {Rg}
XU1 PLUS IN VP VN OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
.lib UniversalOpAmp2.lib
.tran 0 0.006004 0 1e-07
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rg list 1k 4.7k 10k
.save V(IN) V(OUT) V(PLUS) V(VN) V(VP) I(VP) I(VN) I(VIN) I(RF) I(RG)
.end
