* Current mirror with emitter resistors
VCC VCC 0 12
IREF VCC REF 1m
Q1 REF REF E1 0 Q_NPN
Q2 OUT REF E2 0 Q_NPN
RE1 E1 0 {Re}
RE2 E2 0 {Re}
VTEST OUT 0 5
.dc VTEST 0 10 0.05
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Re list 1 100 470
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(E1) V(E2) V(OUT) V(REF) V(VCC) I(VCC) I(IREF) Ic(Q1) Ib(Q1) Ic(Q2) Ib(Q2) I(RE1) I(RE2) I(VTEST)
.end
