* Differential pair with mirror load
VP VP 0 12
VN VN 0 -12
VIN IN 0 0 AC 1
Q1 REF IN TAIL 0 Q_NPN
Q2 OUT 0 TAIL 0 Q_NPN
IT TAIL VN 1m
Q3 REF REF VP 0 Q_PNP
Q4 OUT REF VP 0 Q_PNP
RL OUT 0 {Load}
.ac dec 60 10 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Load list 1k 4.7k 10k
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.model Q_PNP PNP(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(IN) V(OUT) V(REF) V(TAIL) V(VN) V(VP) I(VP) I(VN) I(VIN) Ic(Q1) Ib(Q1) Ic(Q2) Ib(Q2) I(IT) Ic(Q3) Ib(Q3) Ic(Q4) Ib(Q4) I(RL)
.end
