* Differential pair with resistor tail
VP VP 0 12
VN VN 0 -12
VIN IN 0 0
Q1 C1 IN TAIL 0 Q_NPN
Q2 C2 0 TAIL 0 Q_NPN
RT TAIL VN {Rt}
RC1 VP C1 4.7k
RC2 VP C2 4.7k
.dc VIN -0.2 0.2 0.002
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rt list 5.6k 10k 22k
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(C1) V(C2) V(IN) V(TAIL) V(VN) V(VP) I(VP) I(VN) I(VIN) Ic(Q1) Ib(Q1) Ic(Q2) Ib(Q2) I(RT) I(RC1) I(RC2)
.end
