* Diode limiter and DC clamp
VIN IN 0 SINE(0 3 1k)
RS IN LIMIT 1k
DP LIMIT 0 D_SILICON
DN 0 LIMIT D_SILICON
CC IN CLAMP 100n
DC 0 CLAMP D_SILICON
RL CLAMP 0 {Load}
.tran 0 0.01 0.008 1e-06
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Load list 10k 100k 1Meg
.model D_SILICON D(Is=2n N=1.7 Rs=0.2 Cjo=10p Tt=20n)
.save V(CLAMP) V(IN) V(LIMIT) I(VIN) I(RS) I(DP) I(DN) I(CC) I(DC) I(RL)
.end
