* BJT emitter follower
VCC VCC 0 8
VIN IN 0 3
Q1 VCC IN OUT 0 Q_NPN
RL OUT 0 {Load}
.dc VIN 0 5 0.025
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Load list 1k 10k 100k
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(IN) V(OUT) V(VCC) I(VCC) I(VIN) Ic(Q1) Ib(Q1) I(RL)
.end
