* Two-terminal JFET current sink
VTEST DRAIN 0 12
J1 DRAIN 0 SOURCE J_NCHANNEL
RS SOURCE 0 {Rs}
.dc VTEST 0 12 0.05
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rs list 330 1k 2.2k
.model J_NCHANNEL NJF(Vto=-2 Beta=1.5m Lambda=0.005 Is=1f Cgs=5p Cgd=3p)
.save V(DRAIN) V(SOURCE) I(VTEST) Id(J1) I(RS)
.end
