* JFET output characteristics
VD DRAIN 0 10
VG GATE 0 {Gate}
J1 DRAIN GATE 0 J_NCHANNEL
.dc VD 0 10 0.05
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Gate list 0 -0.5 -1
.model J_NCHANNEL NJF(Vto=-2 Beta=1.5m Lambda=0.005 Is=1f Cgs=5p Cgd=3p)
.save V(DRAIN) V(GATE) I(VD) I(VG) Id(J1)
.end
