* JFET self bias
VDD VDD 0 12
RD VDD DRAIN 1k
J1 DRAIN GATE SOURCE J_NCHANNEL
RS SOURCE 0 {Rsource}
RG GATE 0 1Meg
.dc VDD 0 12 0.05
.step param Rsource list 470 1k 2.2k
.model J_NCHANNEL NJF(Vto=-2 Beta=1.5m Lambda=0 Is=1f)
.temp 27
.options reltol=1e-5 plotwinsize=0
.save V(gate) V(source) V(drain) Id(J1) Ig(J1) I(RD) I(RS)
.end
