* JFET source follower
VDD VDD 0 12
VIN GATE 0 2 AC 1
J1 VDD GATE OUT J_NCHANNEL
RS OUT 0 {Rs}
.ac dec 60 10 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rs list 470 1k 2.2k
.model J_NCHANNEL NJF(Vto=-2 Beta=1.5m Lambda=0.005 Is=1f Cgs=5p Cgd=3p)
.save V(GATE) V(OUT) V(VDD) I(VDD) I(VIN) Id(J1) I(RS)
.end
