* MOSFET common-source amplifier
VDD VDD 0 12
VIN GATE 0 3 AC 1
M1 OUT GATE SOURCE SOURCE M_NCHANNEL
RD VDD OUT {Rd}
RS SOURCE 0 470
.ac dec 60 10 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rd list 1k 2.2k 3.3k
.model M_NCHANNEL NMOS(Level=1 Vto=2 Kp=0.02 Lambda=0.01 Rd=0.1 Rs=0.1 Cbd=100p Cbs=100p)
.save V(GATE) V(OUT) V(SOURCE) V(VDD) I(VDD) I(VIN) Id(M1) I(RD) I(RS)
.end
