* MOSFET current mirror
VDD VDD 0 12
IREF VDD REF {Iset}
M1 REF REF 0 0 M_NCHANNEL
M2 OUT REF 0 0 M_NCHANNEL
VTEST OUT 0 5
.dc VTEST 0 10 0.05
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Iset list 250u 1m 2m
.model M_NCHANNEL NMOS(Level=1 Vto=2 Kp=0.02 Lambda=0.01 Rd=0.1 Rs=0.1 Cbd=100p Cbs=100p)
.save V(OUT) V(REF) V(VDD) I(VDD) I(IREF) Id(M1) Id(M2) I(VTEST)
.end
