* MOSFET gate charging and switching energy
VDD VDD 0 12
VIN DRIVE 0 PULSE(0 8 2u 20n 20n 8u 16u)
RG DRIVE GATE {Rg}
M1 OUT GATE 0 0 M_POWER
RL VDD OUT 12
CGS GATE 0 2n
CGD GATE OUT 500p
.tran 0 3.6e-05 0 5e-09
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rg list 10 100 470
.model M_POWER NMOS(Level=1 Vto=2 Kp=2 Lambda=0 Rd=0.02 Rs=0.02 Cbd=100p Cbs=100p)
.save V(DRIVE) V(GATE) V(OUT) V(VDD) I(VDD) I(VIN) I(RG) Id(M1) I(RL) I(CGS) I(CGD)
.end
