* Buffer and source loading
VP VP 0 12
VN VN 0 -12
VIN IN 0 0 AC 1
RS1 IN DIRECT 10k
RL1 DIRECT 0 {Load}
RS2 IN BUFFERIN 10k
XU1 BUFFERIN OUT VP VN OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
RL2 OUT 0 {Load}
.lib UniversalOpAmp2.lib
.ac dec 60 10 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Load list 100 1k 10k
.save V(BUFFERIN) V(DIRECT) V(IN) V(OUT) V(VN) V(VP) I(VP) I(VN) I(VIN) I(RS1) I(RL1) I(RS2) I(RL2)
.end
