* Output clipping
VP VP 0 12
VN VN 0 -12
VIN IN 0 SINE(0 {Amplitude} 1k)
RI IN SUM 10k
RF OUT SUM 20k
XU1 0 SUM VP VN OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
RL OUT 0 10k
.lib UniversalOpAmp2.lib
.tran 0 0.004 0.002 2e-07
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Amplitude list 1 5 10
.save V(IN) V(OUT) V(SUM) V(VN) V(VP) I(VP) I(VN) I(VIN) I(RI) I(RF) I(RL)
.end
