* Four-resistor difference amplifier
VP VP 0 12
VN VN 0 -12
V1 A 0 SINE({Common} 0.1 1k)
V2 B 0 {Common}
R1 B SUM 10k
RF OUT SUM 10k
R2 A PLUS 10k
R3 PLUS 0 10k
XU1 PLUS SUM VP VN OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
.lib UniversalOpAmp2.lib
.tran 0 0.004 0.002 1e-06
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Common list 0 2 5
.save V(A) V(B) V(OUT) V(PLUS) V(SUM) V(VN) V(VP) I(VP) I(VN) I(V1) I(V2) I(R1) I(RF) I(R2) I(R3)
.end
