* Band-limited differentiator
VP VP 0 12
VN VN 0 -12
VIN IN 0 0 AC 1
CI IN X {Cin}
RI X SUM 1k
RF OUT SUM 100k
CF OUT SUM 10p
XU1 0 SUM VP VN OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
.lib UniversalOpAmp2.lib
.ac dec 60 1 10000000.0
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Cin list 1n 10n 100n
.save V(IN) V(OUT) V(SUM) V(VN) V(VP) V(X) I(VP) I(VN) I(VIN) I(CI) I(RI) I(RF) I(CF)
.end
