* Slew-rate limiting
VP VP 0 12
VN VN 0 -12
VIN IN 0 SINE(0 5 100k)
XU1 IN OUT VP VN OUT level2 Avol=1Meg GBW=10Meg Slew={Rate} Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
RL OUT 0 10k
.lib UniversalOpAmp2.lib
.tran 0 0.0001 8e-05 2e-08
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rate list 100k 500k 10Meg
.save V(IN) V(OUT) V(VN) V(VP) I(VP) I(VN) I(VIN) I(RL)
.end
