* PNP current mirror
VCC VCC 0 5
RR REF 0 {Rref}
Q1 REF REF VCC 0 Q_PNP
Q2 OUT REF VCC 0 Q_PNP
VTEST OUT 0 1
.dc VTEST 0 5 0.025
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Rref list 1k 2.2k 4.7k
.model Q_PNP PNP(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(OUT) V(REF) V(VCC) I(VCC) I(RR) Ic(Q1) Ib(Q1) Ic(Q2) Ib(Q2) I(VTEST)
.end
