* Precision half-wave rectifier
VP VP 0 12
VN VN 0 -12
VIN IN 0 SINE(0 {Amplitude} 1k)
RI IN SUM 10k
RF OUT SUM 10k
XU1 0 SUM VP VN DRIVE level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=100m Rail=0.5 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1G
D1 DRIVE OUT D_SILICON
D2 SUM DRIVE D_SILICON
RL OUT 0 10k
.lib UniversalOpAmp2.lib
.tran 0 0.004 0.002 2e-07
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param Amplitude list 20m 200m 2
.model D_SILICON D(Is=2n N=1.7 Rs=0.2 Cjo=10p Tt=20n)
.save V(DRIVE) V(IN) V(OUT) V(SUM) V(VN) V(VP) I(VP) I(VN) I(VIN) I(RI) I(RF) I(D1) I(D2) I(RL)
.end
